US08022208B2
Methyl 4-{1-[2-(dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoate (490 mg) was dissolved in acetic acid (20 mL), and platinum oxide (74 mg) was added, followed by stirring in a hydrogen atmosphere (1 atm.) at room temperature for 15 hours. The vapor in the reactor was purged with argon, then the reaction mixture was filtered through Celite, followed by washing with methanol. The filtrate was concentrated under reduced pressure, followed by two times azeotropy with toluene. An aqueous saturated sodium hydrogencarbonate solution was added to the residue, followed by two times extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the resulting residue was purified by NH-silica gel column chromatography (hexane:ethyl acetate=2:1 to 1:2) to obtain methyl 4-{1-[2-(dimethylamino)ethyl]-2-oxopiperidin-3-yl}benzoate (439 mg) as a colorless oil.

reactant | Methyl 4-{1-[2-(dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoate | 490 mg | CN(CCN1C(C(=CC=C1)C1=CC=C(C(=O)OC)C=C1)=O)C | C17H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 74 mg | [Pt]=O
product | methyl 4-{1-[2-(dimethylamino)ethyl]-2-oxopiperidin-3-yl}benzoate | 439 mg | CN(CCN1C(C(CCC1)C1=CC=C(C(=O)OC)C=C1)=O)C | C17H24N2O3
